US08476292B2
Benzoic anhydride (636 mg, 1.1 eq) was added to N-{2-[4-amino-2-ethoxymethyl-1H-imidazo[4,5-c]quinolin-1-yl]-1,1-dimethylethyl}methanesulfonamide (1 g, 1 eq) in a mixture of triethylamine (533 μL, 1.5 eq) and DMF (5 mL) and the resulting solution was stirred at ambient temperature. After 4 hours additional benzoic anhydride (about 0.1 eq) was added and the reaction mixture was stirred overnight. The reaction mixture was diluted with water (about 40 mL). The resulting suspension was adjusted to pH 7 with aqueous saturated sodium bicarbonate and then it was extracted with ethyl acetate and dichloromethane. The combined organics were concentrated under reduced pressure. The residue was purified by automated flash chromatography (silica gel eluted with a gradient of 0-10% methanol in dichloromethane containing 1% ammonium hydroxide) to provide 894 mg of N-(2-ethoxymethyl-1-{2-methyl-2-[(methylsulfonyl)amino]propyl}-1H-imidazo[4,5-c]quinolin-4-yl)benzamide as a white powder, mp 80-83° C. Anal. calcd for C25H29N5O4S.0.60 CH4O: C, 59.73; H, 6.15; N, 13.06. Found: C, 59.44; H, 5.75; N, 13.69.

reactant | Benzoic anhydride | 636 mg, 1.1 eq | C(C1=CC=CC=C1)(=O)OC(C1=CC=CC=C1)=O | C14H10O3
reactant | N-{2-[4-amino-2-ethoxymethyl-1H-imidazo[4,5-c]quinolin-1-yl]-1,1-dimethylethyl}methanesulfonamide | 1 g, 1 eq | NC1=NC=2C=CC=CC2C2=C1N=C(N2CC(C)(C)NS(=O)(=O)C)COCC | C18H25N5O3S
reactant | triethylamine | 533 μL, 1.5 eq | C(C)N(CC)CC | C6H15N
reactant | benzoic anhydride | about 0.1 eq | C(C1=CC=CC=C1)(=O)OC(C1=CC=CC=C1)=O | C14H10O3
reactant | sodium bicarbonate | C([O-])(O)=O.[Na+]
solvent | DMF | 5 mL | CN(C)C=O | C3H7NO
solvent | water | about 40 mL | O | H2O
product | N-(2-ethoxymethyl-1-{2-methyl-2-[(methylsulfonyl)amino]propyl}-1H-imidazo[4,5-c]quinolin-4-yl)benzamide | 894 mg | C(C)OCC=1N(C2=C(C(=NC=3C=CC=CC23)NC(C2=CC=CC=C2)=O)N1)CC(C)(NS(=O)(=O)C)C | C25H29N5O4S
